
*Independent Voltage source
Va 1 0 5.02190737223

*Independent Current source
Id 7 5 1.00982059009m

R1 1 2 1.0476827939k
R2 2 3 2.06734674703k
R3 2 4 3.11772752237k
R4 4 0 4.18589931649k
R5 4 5 3.07515052435k

R6 0 6.5 2.05395043467k
VAux 6.5 6 0
R7 6 7 1.00552689939k

Hc 4 7 VAux 8.2448059697k
Gb 5 3 (2,4) 7.20043221704m

.control

op

echo  "op_TAB"
print V(1)
print V(2)
print V(3)
print V(4)
print V(5)
print V(6)
print V(7)
print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]

echo  "op_END"

quit
.endc

.end